* Test circuit for simple_inv Verilator module
.title Simple Inverter Verilator Test

* Include the Verilator-wrapped inverter subcircuit
.INCLUDE simple_inv_xyce.cir

* Input stimulus - pulse waveform
Vin in_node 0 PULSE(0 1 1n 0.1n 0.1n 5n 10n)

* Instantiate the inverter
* Use the YPWL devices from simple_inv_xyce.cir
XINV simple_inv

* Output load
Rload out_node 0 1k

* Transient analysis
.tran 0.1n 30n

* Output
.print tran v(in_node) v(out_node)

.end
